US08445509B2
Production of N-[2-chloro-4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
Using N-[6-(4-amino-3-chlorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (160 mg, 0.467 mmol), 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (150 mg, 0.607 mmol), N,N-dimethylformamide (2 mL), N,N-diisopropylethylamine (161 μL, 0.934 mmol) and HATU (230.8 mg, 0.607 mmol) and in the same manner as in Example 60, the title compound (250 mg, 94%) was obtained as a white solid.

reactant | N-[6-(4-amino-3-chlorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.467 mmol, 160 mg | NC1=C(C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)Cl | C17H15ClN4O2
reactant | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.607 mmol, 150 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | N,N-diisopropylethylamine | 0.934 mmol, 161 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.607 mmol, 230.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[2-chloro-4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 250 mg, 94% | ClC1=C(C=CC(=C1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O | C30H23ClFN5O4
